US08871767B2
3-(4-fluorophenyl)-6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine
To a stirred mixture of 3-bromo-6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine (0.100 g, 0.275 mmol), 4-fluorophenylboronic acid (0.412 mmol), Na2CO3 (0.825 mmol) in 2-propanol (6 mL) and water (2 mL) that has been degassed with N2 (5 minutes) is added PdCl2(PPh3)2(0.0275 g). The reaction mixture is heated at 80° C. for 6 hours, cooled, diluted with sat. aqueous NaHCO3 (50 mL) and extracted with EtOAc (3×25 mL). Organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness. The crude product is purified via chromatography (hexanes to EtOAc) to afford 0.092 g (88%) of the title compound as a yellow solid: Rf 0.47 (1:1 EtOAc:hexanes); LCMS (m/z)=379.4 [M+H]+, tR=3.07 min.

reactant | 3-bromo-6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine | 0.275 mmol, 0.100 g | BrC1=C(N=C2N1N=C(C=C2)OC)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C14H11BrN4O3
reactant | 4-fluorophenylboronic acid | 0.412 mmol | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 0.825 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 2-propanol | 6 mL | CC(C)O | C3H8O
solvent | water | 2 mL | O | H2O
product | 3-(4-fluorophenyl)-6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine | 0.092 g, 88% | FC1=CC=C(C=C1)C1=C(N=C2N1N=C(C=C2)OC)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C20H15FN4O3
